US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2-chloro-5,6,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-5,6,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2-chloro-5,6,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC=C(C=C1)F | C17H15ClFN3S
product | 2-(pyrazol-1-yl)-5,6,7,8-tetrahydro-4-(4-fluorobenzylamino)-[1]-benzothieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC=C(C=C1)F | C20H18FN5S
